US05691307
17β-Chloroacetoxy-4-androsten-3-one
Testosterone (5 mmol) was dissolved in anhydrous methylene chloride (7.0 mL) and triethylamine (5 mmol) under argon. The solution was stirred for 30 minutes in an ice-bath. Chloroacetyl chloride (10 mmol) dissolved in anhydrous methylene chloride (3 mL) was added at 0° C. and stirring was continued for 30 minutes. The reaction was then allowed to warm to room temperature and was stirred overnight. The solution was washed with 0.05N hydrochloric aqueous solution (2×10 mL) and water (2×10 mL) and dried over sodium sulfate. It was concentrated under reduced pressure to give a brown solid. It was purified by silica gel column chromatography (Davisil grade 633, 200-425 mesh, 60 Å) using chloroform/petroleum ether (2:1) as an eluent to give a white solid. Yield, 1.23 g (67%); mp 125°-126° C. (124°-125° C., Molen et al., Steroids, 6, 195-214 (1965)); UV (MeOH/H2O, 1:1) λmax 246 nm (ε=1.521×104); 1H NMR δ0.81 (s, 3 H, CH3 -19), 1.15 (s, 3 H, CH3 -18), 0.82-2.50 (m, 19 H), 4.38 (d, 2 H, CH2Cl), 4.63 (t, 1 H, H-17), 5.63 (s, 1 H, H-4); MS (EI) Calcd. m/z for C21H29O335Cl 364.1805, found, 364.1804. Calcd. m/z for C21H29O337Cl 366.1776, found, 366.1776.

reactant | Testosterone | 5 mmol | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | Chloroacetyl chloride | 10 mmol | ClCC(=O)Cl | C2H2Cl2O
reactant | MeOH H2O | CO.O
solvent | methylene chloride | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 17β-Chloroacetoxy-4-androsten-3-one | ClCC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C21H29ClO3
